Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Intractable nausea, malaise
 
Major Surgical or Invasive Procedure:
ultrasound-guided liver biopsy

 
History of Present Illness:
___ with HTN presented to ___ for evluation of intractable 
nausea, maliase and growing firm mass in epigastric/RUQ. Also 
complaued of difficulty moving bowels and urinating. CT of the 
torso showed diffuse metastatic disease involving both lungs and 
hepatic mass with left portal vein thrombosis,also 
circumferential thickening of the colon. Given risk of 
metastatic disease and concern for hemorrhage, pt. was 
transferred to ___ for further evaluation and management. 

Patient reports that she was in her usual state of health until 
3 weeks back when all these symptoms started. However, she does 
report her progressive weight loss. She was 135 pounds ___ yr 
back, 100 3 months back and ___ now. She is not able to eat due 
to nausea. Whenever she tries to eat, she vomits out. Son has 
esophageal cancer, in remission currently. No pancreatic or any 
other cancers in the family. She used to smoke 60 PY, quit 6 
months back. No alcohol. 

Patient reports not seeing any doctor for many years, never had 
a mammogram or colonoscopy. No other screening as well. 

ROS: No fever, chills, night sweats. Endorses difficulty 
urinating and moving bowels over the last 3 weeks. 
 
Past Medical History:
HTN
 
Social History:
___
Family History:
Son has esophageal cancer, in remission currently. No pancreatic 
or any other cancers in the family.
 
 
 
Physical Exam:
Temp: 97.8 HR: 94 BP: 136/72 Resp: 18 O(2)Sat: 97
The patient is well-appearing, in no acute distress, alert and 
oriented x 3.   
HEENT: Extraocular muscles intact, Normocephalic, atraumatic. 
Supple neck
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Nontender, Nondistended, large more than 10 cms in 
size mass felt in the epigastrium. 
Extr: No pedal edema. 
Neuro: Speech fluent 
Psych: Normal mood, Normal mentation

Discharge exam:
afebrile, VSS, hard of hearing
Abdomen: distended, mildly tender in RUQ, no rebound or 
guarding, no shifting dullness
Neuro:  no asterixis
Clear lungs
RRR, normal S1, S2

 

 
Pertinent Results:
___ 09:58PM   GLUCOSE-94 UREA N-6 CREAT-0.4 SODIUM-124* 
POTASSIUM-4.1 CHLORIDE-90* TOTAL CO2-23 ANION GAP-15
___ 09:58PM   estGFR-Using this
___ 09:58PM   ALT(SGPT)-69* AST(SGOT)-229* LD(LDH)-322* ALK 
PHOS-212* TOT BILI-2.7*
___ 09:58PM   LIPASE-29
___ 09:58PM   CALCIUM-8.8 PHOSPHATE-2.2* MAGNESIUM-1.7
___ 09:58PM   WBC-5.6 RBC-5.02 HGB-14.2 HCT-42.9 MCV-86 
MCH-28.2 MCHC-33.0 RDW-14.9
___ 09:58PM   PLT COUNT-239
___ 09:58PM   ___ PTT-34.5 ___

Core liver biopsies:

A.  Liver, segment III, needle core biopsy:
Hepatocellular carcinoma, moderately differentiated.
 
Scant non-neoplastic liver parenchyma present, insufficient for 
evaluation of background liver disease.

B.  Liver, segment IV, needle core biopsy:
Hepatocellular carcinoma, moderately differentiated.
 
Small vessel invasion is seen.
 
Trichrome and iron stains will be reported in an addendum. 

CT head- no acute intracranial process

Discharge labs:

___ Ct
___

GlucoseUreaNCreatNaKClHCO3AnGap
___

___
___

AFP > ___

Hepatitis C antibody positive, viral load pending

PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.

ASCITES ANALYSIS
___
___ hard of hearing, very pleasant female with HTN with 
intractable nausea, maliase and growing firm mass in 
epigastric/RUQ. CT of the torso prior to admission (performed at 
___, accessible in ___) showed diffuse metastatic disease 
involving both lungs and hepatic mass with left portal vein 
thrombosis, also circumferential thickening of the colon. 

# Metastatic hepatocellular carcinoma:  confirmed on biopsy, 
with presumed metastatic disease in lungs, colon.  New diagnosis 
of hepatitis C likely primary contributor to development of HCC. 
 Oncology consulted, and patient will establish care with 
oncologist on ___ to consider palliative sorafenib.  Patient 
understands that her disease is incurable, and that any 
treatment that can be offered will be palliative. Discharged 
with anti-emetics and pain and bowel regimen, counseled patient 
on their use.

# Portal vein thrombosis: Head CT has ruled out any mets to the 
brain. had a long discussion with the patient. Pros and cons of 
heparin anticoagulation discussed, started heparin drip.  During 
hospital course, patient developed guaiac positive stool, and 
given possibility of tumor in thrombus and risks of bleeding, 
decision was made to discontinue anticoagulation (in 
consultation with gastroenterology and oncology).

# Hepatitis C:  New diagnosis.  Trichrome stain to eval for 
cirrhosis pending at time of discharge, as is HCV viral load.

# Hyponatremia: due to hypovolemic hyponatremia, improved with 
IVF, discharge sodium 131. 

# Hypertension:  held HCTZ given hyponatremia, BP remained 
normal off of HCTZ and lisinopril, did not continue at 
discharge.

# Malnutrition: patient received ensure with meals, encouraged 
to continue to supplement meals with Ensures or equivalent as 
symptoms allow.

Code status:  full code for now.  Given gravity of new 
diagnosis, I did not discuss this with patient in detail.  
During her hospital course, she has shown in interest in meeting 
with outpatient palliative care to focus on symptom management, 
which is her primary goal moving forward.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*90 Capsule Refills:*3
2. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth daily Disp #*90 Capsule Refills:*3
3. Ondansetron 8 mg PO TID 
RX *ondansetron 8 mg 1 tablet,disintegrating(s) by mouth three 
times a day Disp #*90 Tablet Refills:*3
4. Senna 1 TAB PO BID 
RX *sennosides [senna] 8.6 mg 1 cap by mouth twice a day Disp 
#*90 Capsule Refills:*3
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
please do not drive when taking this medication, it will make 
you sleepy 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*1
6. Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl [Dulcolax] 5 mg ___ tablet,delayed release 
(___) by mouth daily Disp #*90 Tablet Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metastatic hepatocellular carcinoma (live cancer)
Hyponatremia- resolved
left portal vein thrombus- not on anticoagulation per 
GI/oncology
hepatitis C- antibody positive, viral load pending as of ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with nausea and abdominal 
pain, and a CT scan showed evidence of possible tumor growth in 
the liver and lungs.  A biopsy was performed which confirmed 
metastatic liver cancer.  You were seen by the ___ physicians and 
oncology team (cancer physicians), and will follow up closely 
with Dr. ___ in the coming days.  Your nausea and abdominal 
pain were controlled with medications, and you were able to 
return home on ___.

Please see below for your follow up appointments.

The following changes have been made to your medications:

STOP hydrochlorothiazide
STOP lisinopril

New medications include:
Senna- take to prevent constipation (if you have diarrhea, stop 
this for one day)
Colace- take to prevent constipation (if you have diarrhea, stop 
this for one day)
Dulcolax- take as needed to prevent constipation
Zofran- take to prevent nausea
oxycodone- take as needed for abdominal pain.  The side effect 
is sleepiness and constipation.  Please do not drive if you take 
this medication
 
Followup Instructions:
___